P12 AC: textbook equivalent; see README.md
Vin in 0 0 AC 1
Rs out 0 1500
Gm 0 out in out 0.00268328157
.ac dec 20 1 1Meg
.options numdgt=15 measdgt=12
.meas AC result FIND re(V(out)*1) AT=1k
.end
