P12 AC: textbook equivalent; see README.md
Iin 0 in 0 AC 1
Rd d 0 525
Rf in out 500
G1 d in 0 in 0.0126364835
G2 0 out 0 d 0.0219161877
Eio io 0 0 d 0.0219161877
.ac dec 20 1 1Meg
.options numdgt=15 measdgt=12
.meas AC result FIND re(V(io)*1) AT=1k
.meas AC rin_port FIND re(V(in)/I(Iin)) AT=1k
.end
