P12 AC: textbook equivalent; see README.md
Vin src 0 0 AC 1
Rs src in 600
Rb1 in 0 9981.66023
Rc1 b2 0 3000
Rc2 out 0 4000
Re2 e2 0 8100
Rf in e2 1200
Rpi1 in 0 1786.5718
Gm1 b2 0 in 0 0.0671677453
Rpi2 b2 e2 6294.2944
Gm2 out e2 b2 e2 0.0190648852
.ac dec 20 1 1Meg
.options numdgt=15 measdgt=12
.meas AC result FIND re(V(out)*1) AT=1k
.meas AC rin_port FIND re(V(src)/(-I(Vin))) AT=1k
.end
