P12 AC: textbook equivalent; see README.md
Vin in 0 0 AC 1
Rc1 b2 0 5000
Rc2 b3 0 2000
Re1 e1 0 100
Rf e1 out 800
Re3 out 0 100
Rpi1 in e1 6240
Gm1 b2 e1 in e1 0.0192307692
Rpi2 b2 0 3120
Gm2 b3 0 b2 0 0.0384615385
Rpi3 b3 out 1560
Gm3 c3 out b3 out 0.0769230769
Rc3 c3 0 1000
Eio io 0 0 c3 0.001
.ac dec 20 1 1Meg
.options numdgt=15 measdgt=12
.meas AC result FIND re(V(io)*1) AT=1k
.meas AC rin_port FIND re(V(in)/(-I(Vin))) AT=1k
.end
