P12.49 textbook DC: Vbe=0.7 V; Ic=beta*Ib, not a device-model OP
Vcc vcc 0 10
Rs b1 0 10000
Ie1 e1 0 0.0002
Rc1 vcc b2 40000
Rc2 vcc out 2000
Re2 e2 0 1000
Vbe1 b1 e1 0.7
Fc1 b2 e1 Vbe1 100
Vbe2 b2 e2 0.7
Fc2 out e2 Vbe2 100
.dc Vcc 10 10.000001 0.000001
.options numdgt=15 measdgt=12
.meas DC ic1 FIND (I(Vbe1)*100) AT=10
.meas DC ic2 FIND (I(Vbe2)*100) AT=10
.meas DC v_b1 FIND V(b1) AT=10
.meas DC v_b2 FIND V(b2) AT=10
.meas DC v_e1 FIND V(e1) AT=10
.meas DC v_e2 FIND V(e2) AT=10
.meas DC v_out FIND V(out) AT=10
.meas DC v_vcc FIND V(vcc) AT=10
.end
