P12.47 nonlinear device DC verification; LED constant drop as specified
VCC vcc 0 10
VG gate 0 7.6
RD vcc d 525
RF s out 500
M1 d gate s s MN L=1u W=1u
M2 ledtop d vcc vcc MP L=1u W=1u
VLED ledtop out 1.6
.model MN NMOS (LEVEL=1 VTO=1 KP=20m LAMBDA=0)
.model MP PMOS (LEVEL=1 VTO=-1 KP=20m LAMBDA=0)
IQ out 0 16m
.temp 27
.options numdgt=15 measdgt=12 reltol=1e-9 abstol=1e-14 vntol=1e-10
.dc VCC 10 10.000001 1u
.meas DC id1 FIND Id(M1) AT=10
.meas DC id2 FIND (-Id(M2)) AT=10
.meas DC vout FIND V(out) AT=10
.meas DC vs1 FIND V(s) AT=10
.end
