P12 Rout: textbook equivalent; see README.md
Vin in 0 0 AC 0
Rs in b1 1000
Rc 0 b3 22600
R1 fb 0 10000
R2 out fb 50000
RL out 0 4000
Rpi1 b1 tail 5005.00016
Gm1 0 tail b1 tail 0.0199800193
Rpi2 fb tail 5524.64461
Gm2 b3 tail fb tail 0.0181007118
Rpi3 b3 out 1277.72097
Gm3 0 out b3 out 0.0782643492
Itest 0 out 0 AC 1
.ac dec 1 1 1Meg
.options numdgt=15 measdgt=12
.meas AC rout_port FIND re(V(out)) AT=1k
.end
