P12 Rout: textbook equivalent; see README.md
Vin in 0 0 AC 0
R1 in 0 400000
R2 in 0 75000
Rc1 b2 0 8800
Rc2 b3 0 13000
Re1 e1 0 500
Re3 out 0 1400
Rf out e1 10000
Rpi1 in e1 3657.90419
Gm1 b2 e1 in e1 0.0328056706
Rpi2 b2 0 6440.3551
Gm2 b3 0 b2 0 0.018632513
Rpi3 b3 out 1579.63601
Gm3 0 out b3 out 0.0759668677
Itest 0 out 0 AC 1
.ac dec 1 1 1Meg
.options numdgt=15 measdgt=12
.meas AC rout_port FIND re(V(out)) AT=1k
.end
